US09163003B2
2-Chloro-6-{3-[4-(4-methoxy-benzoyl)-piperidin-1-yl]-2-oxo-pyrrolidin-1-ylmethyl}-benzonitrile
To a solution of 3-(4-(4-methoxybenzoyl)piperidin-1-yl)pyrrolidin-2-one (70 mg, 0.23 mmol) and 2-(bromomethyl)-6-chlorobenzonitrile (80 mg, 0.35 mmol) in tetrahydrofuran (1 mL) and dimethylformamide (0.1 mL) was added sodium hydride (46 mg, 1.2 mmol, 60% in mineral oil). The mixture was stirred at ambient temperature for 30 minutes. Dichloromethane and methanol were added slowly to quench the reaction. Then the mixture was filtered through a short pad of silical gel column, the solvent was removed in vacuo, and the residue was purified via flash column chromatography (ethyl acetate:hexane, 10:90 to 100:0) first and then (methanol: dichloromethane, 1:99 to 10:90) to give brown oil which is further purified by HPLC to give a colorless product. 1H NMR (400 MHz, CDCl3) δ 7.85 (m, 2H), 7.45 (t, J=8.0 Hz, 1H), 7.35-7.41 (m, 1H), 7.30 (d, J=7.5 Hz, 1H), 6.87 (m, J=9.0 Hz, 2H), 4.62 (q, J=15.6 Hz, 2H), 3.80 (s, 3H), 3.50 (t, J=9.0 Hz, 1H), 3.11-3.37 (m, 3H), 2.94-3.11 (m, 1H), 2.75-2.94 (m, 2H), 2.28-2.54 (m, 1H), 2.09-2.28 (m, 1H), 1.90-2.09 (m, 1H), 1.66-1.90 (m, 4H). HRMS calculated for C25H26ClN3O3 452.1741. found (ESI, [M+H]+), 452.1760.

reactant | 3-(4-(4-methoxybenzoyl)piperidin-1-yl)pyrrolidin-2-one | 0.23 mmol, 70 mg | COC1=CC=C(C(=O)C2CCN(CC2)C2C(NCC2)=O)C=C1 | C17H22N2O3
reactant | 2-(bromomethyl)-6-chlorobenzonitrile | 0.35 mmol, 80 mg | BrCC1=C(C#N)C(=CC=C1)Cl | C8H5BrClN
reactant | sodium hydride | 1.2 mmol, 46 mg | [H-].[Na+]
reactant | Dichloromethane | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | dimethylformamide | 0.1 mL | CN(C=O)C | C3H7NO
solvent | methanol | CO | CH4O
product | 2-Chloro-6-{3-[4-(4-methoxy-benzoyl)-piperidin-1-yl]-2-oxo-pyrrolidin-1-ylmethyl}-benzonitrile | ClC1=C(C#N)C(=CC=C1)CN1C(C(CC1)N1CCC(CC1)C(C1=CC=C(C=C1)OC)=O)=O | C25H26ClN3O3
